US05389682
[R-(R*,S*)]-N-(4-chlorophenyl)-N'-(2-hydroxy-1,2-diphenylethyl)urea
To a solution of (-)-[R-(R*,S*)]-2-amino-1,2-diphenylethanol (1.0 g, 4.7 mmol) in dichloromethane (10 mL) is added dropwise a solution of 4-chlorophenyl isocyanate (0.72 g, 4.7 mmol) in dichloromethane (5 mL). The resulting mixture is stirred 1 hour at room temperature before filtering off the solid product and washing with CH2Cl2 (2X). The product is dried in vacuo at 114° C. to provide 1.4 g (81%) of desired product, mp 198° C. IR (KBr): 3327, 1665, 1549, 1234, 703 cm-1 ; NMR (DMSO-d6): 4.95 (m, 1H), 5.74 (m, 1H), 6.84-7.5 (m, 16H, 8.84 (S, 1H). Analysis calculated for C21H19ClN2O2.0.42H2O: C, 67.37; H, 5.34; N, 7.48. Found: C, 67.36; H, 5.16; N, 7.61.

reactant | 2-amino-1,2-diphenylethanol | 4.7 mmol, 1.0 g | NC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H15NO
reactant | 4-chlorophenyl isocyanate | 4.7 mmol, 0.72 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N'-(2-hydroxy-1,2-diphenylethyl)urea | 1.4 g, 81% | ClC1=CC=C(C=C1)NC(=O)NC(C(C1=CC=CC=C1)O)C1=CC=CC=C1 | C21H19ClN2O2
